US04397943
Synthesis Example 1: Synthesis of 5-acryloyloxyethoxycarbonylmethyl-7-hydroxy-1,2,4-triazolo[1,5-a]pyrimidine
19.4 g of 7-hydroxy-5-carboxymethyl-1,2,4-triazolo[1,5-a]pyrimidine and 12 g of hydroxyethylacrylate were dissolved in 150 ml of dimethylformamide (DMF) and thereto, a solution of 20.6 g of N,N-dicyclohexylcarbodiimide in 30 ml of DMF was added dropwise at a room temperature for 10 minutes. Thereafter, stirring was continued at a room temperature for 8 hours, and the precipitate produced was removed by filtration. The filtrate was condensed under a reduced pressure and low temperature. The thus obtained residue was chromatographed through silica gel put in a column in order to separate it into components and purify. The intended compound was obtained in a form of crystal. It was recrystallized from ethyl acetate. Thus, 6 g of white crystal having a melting point of 108° to 109° C. (intended compound) was obtained.

reactant | 7-hydroxy-5-carboxymethyl-1,2,4-triazolo[1,5-a]pyrimidine | 19.4 g | OC1=CC(=NC=2N1N=CN2)CC(=O)O | C7H6N4O3
reactant | hydroxyethylacrylate | 12 g | OCCOC(C=C)=O | C5H8O3
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | DMF | 30 ml | CN(C=O)C | C3H7NO
product | 5-acryloyloxyethoxycarbonylmethyl-7-hydroxy-1,2,4-triazolo[1,5-a]pyrimidine | C(C=C)(=O)OCCOC(=O)CC1=NC=2N(C(=C1)O)N=CN2 | C12H12N4O5
